US07285558B2
N-cyclopropyl-5-{7-isobutyl-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-{7-isobutyl-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid and cyclopropylamine using diethyl cyanophosphonate as a coupling reagent Mass: 528.30 (M+H).

reactant | 5-{7-isobutyl-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | C(C(C)C)N1C(N(C(C=2C1=NN(C2C2=CC(=CN2C)C(=O)O)CC2=CNC1=CC=C(C=C21)C)=O)C)=O | C26H28N6O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | N-cyclopropyl-5-{7-isobutyl-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxamide | C1(CC1)NC(=O)C1=CN(C(=C1)C=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CNC1=CC=C(C=C21)C)C | C29H33N7O3
